US07915424B2
N,N-Dimethyl-5-phenylethynyl-nicotinamide hydrochloride
Add N-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride (0.34 g, 1.8 mmol) to a solution of diisopropylethyl amine (0.47 mg, 2.7 mmol), dimethylamine hydrochloride (0.11g, 1.34 mmol) and 5-phenylethynyl-nicotinic acid (0.2 g, 0.9 mmol) in tetrahydrofuran and stir at room temperature for 18 h. Dilute the reaction mixture with ethyl acetate and extract with an aqueous saturated solution of sodium carbonate. Extract the aqueous layer with ethyl acetate. Combine organic layers, dry (magnesium sulfate), filter and concentrate. Purify by silica gel chromatography, eluting with 40:60 to 80:20 ethyl acetate:hexanes, to give the free base of the title compound as a colorless oil. Convert the free base to the hydrochloride salt as described in EXAMPLE 163 to give the title compound (0.18 g, 69%).

reactant | N-(3-dimethylaminopropyl)-N-ethylcarbodiimide hydrochloride | 1.8 mmol, 0.34 g | CCN=C=NCCCN(C)C.Cl
reactant | diisopropylethyl amine | 2.7 mmol, 0.47 mg | C(C)(C)N(CC)C(C)C | C8H19N
reactant | dimethylamine hydrochloride | 1.34 mmol, 0.11g | Cl.CNC
reactant | 5-phenylethynyl-nicotinic acid | 0.9 mmol, 0.2 g | C1(=CC=CC=C1)C#CC=1C=NC=C(C(=O)O)C1 | C14H9NO2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | N,N-Dimethyl-5-phenylethynyl-nicotinamide hydrochloride | Cl.CN(C(C1=CN=CC(=C1)C#CC1=CC=CC=C1)=O)C | InChI=1S/C16H14N2O.ClH/c1-18(2)16(19)15-10-14(11-17-12-15)9-8-13-6-4-3-5-7-13;/h3-7,10-12H,1-2H3;1H
